US04304642
The procedure of Example 1 was repeated using diphenyldisulphide (250 mg) in acetonitrile containing 1-octene (430 mg) at 1.40 volts until the passage of 1.94 coulomb equivalents of charge. After the addition of water and extraction with diethyl ether, there was obtained 230 mg of 2-acetamido-1-phenylthio-octane. Mass Spec. m/e 279 (parent ion). I.R. 3290 & 1650 cm-1.

reactant | diphenyldisulphide | 250 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | 1-octene | 430 mg | C=CCCCCCC | C8H16
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-acetamido-1-phenylthio-octane | 230 mg | C(C)(=O)NC(CSC1=CC=CC=C1)CCCCCC | C16H25NOS
